US03962263
5-Chloro-2,3-pyridinediamine (2.8 grams) was dissolved in 50 milliliters of tetrahydrofuran and 2.02 milliliters of triethylamine and the solution treated with trifluoroacetyl chloride (2.6 grams) in 100 milliliters of tetrahydrofuran. The addition was carried out at room temperature over a period of 2 hours, and the reaction mixture was then held at room temperature for another hour with stirring. Solvent was removed by evaporation, and the residue recrystallized from a chloroform/acetone mixture to obtain the desired N3 -trifluoroacetyl-5-chloro-2,3-pyridinediamine product, m.p., 292°-93°C.

reactant | 5-Chloro-2,3-pyridinediamine | 2.8 grams | ClC=1C=C(C(=NC1)N)N | C5H6ClN3
reactant | triethylamine | 2.02 milliliters | C(C)N(CC)CC | C6H15N
reactant | trifluoroacetyl chloride | 2.6 grams | FC(C(=O)Cl)(F)F | C2ClF3O
solvent | tetrahydrofuran | 50 milliliters | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 milliliters | O1CCCC1 | C4H8O
product | trifluoroacetyl-5-chloro-2,3-pyridinediamine | FC(C(=O)C1=C(C(=NC=C1Cl)N)N)(F)F | C7H5ClF3N3O
